US08536364B2
Synthesis of ethyl 3-acetylthio-2-methylbutyrate
A mixture of 51.27 g (0.40 mol) of ethyl tiglate, 76.12 g (1.00 mol) of thioacetic acid, and 7.60 g (0.04 mol) of para-toluenesulfonic acid was stirred under nitrogen atmosphere at 75° C. for 24 hours. After cooling, diethyl ether and a saturated aqueous sodium bicarbonate solution were added to the reaction mixture. The organic layer was separated and washed twice with brine. The solvent in the organic layer was evaporated off, and vacuum distillation (68 to 71° C./2 torr) was performed to give 76.36 g of the objective compound (GC purity: 98.3%, yield: 91.8%, diastereomer ratio: 80.9/19.1).

reactant | ethyl tiglate | 0.40 mol, 51.27 g | C(\C(\C)=C\C)(=O)OCC | C7H12O2
reactant | thioacetic acid | 1.00 mol, 76.12 g | C(C)(=S)O | C2H4OS
reactant | para-toluenesulfonic acid | 0.04 mol, 7.60 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 3-acetylthio-2-methylbutyrate | 76.36 g, yield: 91.8% | C(C)(=O)SC(C(C(=O)OCC)C)C | C9H16O3S
